US08058447B2
Cyclobutylmethyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate
700 mg (3.72 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde, 760 mg (4.46 mmol) of cyclobutylmethyl 3-oxobutanoate, 53 μl (0.93 mmol) of acetic acid and 92 μl (0.93 mmol) of piperidine in 25 ml of anhydrous dichloromethane are heated under reflux after addition of 4 Å molecular sieves (1.5 g) for 24 h. After cooling, the suspension is filtered with suction and the filtrate is washed successively with saturated sodium bicarbonate solution and sodium chloride solution. The organic phase is dried over magnesium sulfate and concentrated. The residue is purified by preparative HPLC. 962 mg (76% of theory) of the title compound are obtained as an E/Z mixture.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 3.72 mmol, 700 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | cyclobutylmethyl 3-oxobutanoate | 4.46 mmol, 760 mg | O=C(CC(=O)OCC1CCC1)C | C9H14O3
reactant | acetic acid | 0.93 mmol, 53 μl | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.93 mmol, 92 μl | N1CCCCC1 | C5H11N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | Cyclobutylmethyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(=O)OCC1CCC1)C(C)=O | C20H20O5
